US04681883
2-[3-[3-(Piperidinomethyl)phenoxy]propylamino]-6-methoxypyridine
3-[3-(Piperidinomethyl)phenoxy]propylamine (14.90 g) and 2-bromo-6-methoxypyridine (5.64 g) were heated with stirring in an oil bath at 165°-170° C. for 5 hours. The reaction mixture was cooled, dissolved in dilute hydrochloric acid to pH 3-4, washed with ether (5 times), taken to pH 9-10 with dilute sodium hydroxide, extracted into ether (5 times). The pH was adjusted after each extraction. The latter ether extracts were combined, dried (MgSO4), evaporated under reduced pressure, and subjected to medium pressure chromatography on silica using ethyl acetate as eluant, to yield the title compound as an oil (2.45 g). This was treated with maleic acid in ethanol to give 2-[3-[3-(piperidinomethyl)phenoxy]propylamino]-6-methoxypyridine dimaleate (2.71 g), m.p. 114.5°-115° C.

reactant | 3-[3-(Piperidinomethyl)phenoxy]propylamine | 14.90 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | 2-bromo-6-methoxypyridine | 5.64 g | BrC1=NC(=CC=C1)OC | C6H6BrNO
solvent | hydrochloric acid | Cl | ClH
product | 2-[3-[3-(Piperidinomethyl)phenoxy]propylamino]-6-methoxypyridine | 2.45 g | N1(CCCCC1)CC=1C=C(OCCCNC2=NC(=CC=C2)OC)C=CC1 | C21H29N3O2
